US07173031B2
B) 4-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2-ylboronic acid
To a solution of 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine (565 mg, 2 mmol) in THF (5 mL) at −40° C. under N2, was added n-BuLi (2.0 M in cyclohexane, Aldrich, 2.4 mmol). The reaction mixture was stirred at −40° C. for 1 h and then treated with triisopropylborate (489 mg, 2.6 mmol). The mixture was slowly warmed to rt and stirred overnight. To this solution was added 1 N HCl in H2O (20 mL), and the mixture was stirred for 20 min., neutralized with saturated aq. K2HPO4 solution and extracted with ether. The organic layer was dried over Na2SO4. After filtration and concentration under reduced pressure, the title compound was obtained as a light beige solid (640 mg, quantitative yield). LC/MS(ESI+) m/z 327 (M+H)+.

reactant | 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine | 2 mmol, 565 mg | ClC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19ClN2OSi
reactant | n-BuLi | 2.4 mmol, 2.0 M | [Li]CCCC
reactant | triisopropylborate | 2.6 mmol, 489 mg | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1 N | Cl | ClH
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | 4-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2-ylboronic acid | ClC1=C2C(=NC=C1)N(C(=C2)B(O)O)COCC[Si](C)(C)C | C13H20BClN2O3Si
